US07981896B2
2-(4-Methoxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide.
2-(4-Methoxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid (752 mg, 3.24 mmol) was suspended in methylene chloride (25 mL) and DMSO (3 drops) was added. After the reaction was stirred at room temperature for 1 hour, it was concentrated in vacuo. The residue was diluted twice with methylene chloride (60 mL) and concentrated to dryness. The residue was diluted again with methylene chloride (45 mL), cyclohexylamine (650 μL, 5.68 mmol) was added, and the reaction was stirred at room temperature for 1 hour. The reaction was diluted further with methylene chloride, washed with NaOH (10%) and 1 N HCl, then dried over Na2SO4. Concentration gave 630 mg of the title compound, which was used in the next reaction without further purification. LC-MS (C18H23N3O2 calculated 313) m/z 314 (M+H).

reactant | 2-(4-Methoxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid | 3.24 mmol, 752 mg | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)O)C | C12H12N2O3
reactant | cyclohexylamine | 5.68 mmol, 650 μL | C1(CCCCC1)N | C6H13N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMSO | 3 drops | CS(=O)C | C2H6OS
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide | 630 mg | C1(CCCCC1)NC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)OC | C18H23N3O2
